US07358248B2
A solution of 2-tert-butoxycarbonylamino-3-(4′-dibenzofuran-4-yl-biphen-4-yl)-propanoic acid methyl ester (125 mg, 0.24 mmol) in THF (2 mL) and methanol (2 mL) was cooled to 0° C. and treated with 2 N KOH (1.0 mL). After stirring at room temperature for 1 h the solution was acidified with 10% HCl to pH 2 and diluted with ethyl acetate (25 mL). After being seperated, the aqueous layer was extracted with ethyl acetate (3×15 mL) and the combined organic layers were dried over MgSO4 and concentrated. Purification by flash column chromatography (2-5% methanol in dichloromethane) provided 2-tert-Butoxycarbonylamino-3-(4′-dibenzofuran-4-yl-biphen-4-yl)-propanoic acid (80 mg, 67%) as white solid. 1H NMR (CDCl3), 7.98 (d, J=9 Hz, 2H), 7.93 (d, J=8 Hz, 2H), 7.74 (d, J=9, 2H), 7.59 (m, 4H), 7.41 (m, 5H), 5.01 (d, J=8 Hz, 1H), 4.66 (m, 1H), 3.30 (m, 2H), 1.47 (s, 9H). LCMS 408 (M+−100).

reactant | 2-tert-butoxycarbonylamino-3-(4′-dibenzofuran-4-yl-biphen-4-yl)-propanoic acid methyl ester | 0.24 mmol, 125 mg | COC(C(CC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=CC2=C1OC1=C2C=CC=C1)NC(=O)OC(C)(C)C)=O | C33H31NO5
reactant | KOH | 2 N, 1.0 mL | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 2-tert-Butoxycarbonylamino-3-(4′-dibenzofuran-4-yl-biphen-4-yl)-propanoic acid | 80 mg, 67% | C(C)(C)(C)OC(=O)NC(C(=O)O)CC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=CC2=C1OC1=C2C=CC=C1 | C32H29NO5
